US07579359B2
Under a nitrogen atmosphere, a mixture of 3-amino-4-chloroquinoline (8.00 g, 1 eq), cyclohexanecarbonyl chloride (18.2 mL, 3 eq) and anhydrous dichloroethane (150 mL) was heated at 90° C. for 23 hours. The reaction mixture was diluted with dichloromethane, washed sequentially with saturated aqueous potassium carbonate, water, and brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was triturated with hexanes to provide a solid. The solid was combined with hexanes, stirred for 30 minutes, isolated by filtration, rinsed with hexanes, and then dried to provide 11.9 g of N-(4-chloroquinolin-3-yl)cyclohexanecarboxamide.

reactant | 3-amino-4-chloroquinoline | 8.00 g, 1 eq | NC=1C=NC2=CC=CC=C2C1Cl | C9H7ClN2
reactant | cyclohexanecarbonyl chloride | 18.2 mL, 3 eq | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chloroquinolin-3-yl)cyclohexanecarboxamide | 11.9 g | ClC1=C(C=NC2=CC=CC=C12)NC(=O)C1CCCCC1 | C16H17ClN2O
